US07384967B2
Bromo-{2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid ethyl ester
To a solution of {2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid ethyl ester (0.05 g, 0.12 mmol) in 2 ml of acetonitrile was added N-bromosuccinimide (0.024 g, 0.13 mmol). The reaction mixture was stirred under nitrogen in a pressure bottle excluded from light overnight at 25° C. The mixture was diluted with 15 ml of DCM, washed (1N HCl, saturated NaHCO3, water), dried (MgSO4) and concentrated under reduced pressure. The crude product was purified by preparative HPLC to afford the title compound (0.010 g, 17%).

reactant | {2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid ethyl ester | 0.12 mmol, 0.05 g | C(C)OC(CC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1)=O | C21H25N3O4S
reactant | N-bromosuccinimide | 0.13 mmol, 0.024 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
product | Bromo-{2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid ethyl ester | 0.010 g, 17% | C(C)OC(C(C=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1)Br)=O | C21H24BrN3O4S
